US06353025B1
To 4-aminophenethyl alcohol (25 g) was added 48% hydrobromic acid (250 ml), and the mixture was heated under reflux for 4 hours with stirring. After cooling, collection of the resulting precipitates by filtration gave 4-(2-bromoethyl)aniline hydrobromide (30.3 g).

reactant | 4-aminophenethyl alcohol | 25 g | NC1=CC=C(CCO)C=C1 | C8H11NO
reactant | hydrobromic acid | 250 ml | Br | BrH
product | 4-(2-bromoethyl)aniline hydrobromide | 30.3 g | Br.BrCCC1=CC=C(N)C=C1 | InChI=1S/C8H10BrN.BrH/c9-6-5-7-1-3-8(10)4-2-7;/h1-4H,5-6,10H2;1H
